US06465467B1
Step 1: 1-Benzyl-3-ethylpiperazine.
Benzyl bromide (38.7 g, 0.22 mol) was added in portions to an ice cold (0° C.) solution of 2-ethylpiperazine (25 g, 0.22 mol) in DMF (150 mL) with such a rate that the temperature did not exceed 20° C. The mixture was stirred for 1 h, the solvent was evaporated and the residue was partitioned between CHCl3/0.5 M HCl. The aqueous phase was made alkaline (11M NaOH) and extracted three times with CHCl3. The combined organic phases were dried (MgSO4) and concentrated. The resulting oil was purified by column chromatography on silica using CHCl3, followed by CHCl3/MeOH/NH4OH (95:5:0.3) as eluents to give 31.6 g (70%) of the title compound as a yellowish oil. Anal. (C13H20N2) H, N; C: calc, 76.42 found 75.85; H, N.

reactant | Benzyl bromide | 0.22 mol, 38.7 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 2-ethylpiperazine | 0.22 mol, 25 g | C(C)C1NCCNC1 | C6H14N2
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | 1-Benzyl-3-ethylpiperazine | 31.6 g, 70% | C(C1=CC=CC=C1)N1CC(NCC1)CC | C13H20N2
